US04777252
(D) 1,4-Dihydro-6,7-dimethoxy-4-oxo-N-(2-oxo-1-imidazolidinyl)-3-quinolinecarboxamide
To a suspension of 1,4-dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarboxylic acid (39.9 g, 0.160 mol) in 3.2 l of N,N-dimethylformamide, triethylamine (32.4 g, 0.320 mol) was added. At 0° C. and under nitrogen protection, diphenyl chlorophosphate (43.0 g, 0.160 mol) was added dropwise and the mixture was stirred for 6 hours at 0° C. A solution of N-amino-imidazolidine-2-one (16.2 g, 0.160 mol) in N,N-dimethylformamide was added and stirring was continued at 0° C. overnight. The triethyl ammonium salt (26 g) was filtered off and the filtrate evaporated in vacuo. The residual oil was triturated with 1 l of ethyl acetate and 1 l of water. The resulting solid was filtered off, washed with water and ethyl acetate and dried in vacuo. The crude product was stirred with 270 ml of 0.2N sodium hydroxide solution of 2 days, filtered off, washed with water and dried in vacuo to give 23.2 g of the title compound, melting point>300° C.

reactant | 1,4-dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarboxylic acid | 0.160 mol, 39.9 g | COC=1C=C2C(C(=CNC2=CC1OC)C(=O)O)=O | C12H11NO5
reactant | triethylamine | 0.320 mol, 32.4 g | C(C)N(CC)CC | C6H15N
reactant | diphenyl chlorophosphate | 0.160 mol, 43.0 g | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N-amino-imidazolidine-2-one | 0.160 mol, 16.2 g | NN1C(NCC1)=O | C3H7N3O
solvent | N,N-dimethylformamide | 3.2 l | CN(C=O)C | C3H7NO
product | 1,4-Dihydro-6,7-dimethoxy-4-oxo-N-(2-oxo-1-imidazolidinyl)-3-quinolinecarboxamide | 23.2 g | COC=1C=C2C(C(=CNC2=CC1OC)C(=O)NN1C(NCC1)=O)=O | C15H16N4O5
